US08791147B2
A 100 mL round-bottomed flask was charged with methyl 1-(4-fluorophenyl)-6-oxo-1,6-dihydropyridine-3-carboxylate (2.3 g, 9.1 mmol) and 20 mL of EtOH. To this was added NaOH (1.10 g, 27.0 mmol). This solution was stirred at rt for 20 h then concentrated. The mixture was acidified to pH 1 with conc HCl. The resulting precipitate was filtered and dried to give 1-(4-fluorophenyl)-6-oxo-1,6-dihydropyridine-3-carboxylic acid as an off-white solid.

reactant | methyl 1-(4-fluorophenyl)-6-oxo-1,6-dihydropyridine-3-carboxylate | 9.1 mmol, 2.3 g | FC1=CC=C(C=C1)N1C=C(C=CC1=O)C(=O)OC | C13H10FNO3
reactant | NaOH | 27.0 mmol, 1.10 g | [OH-].[Na+]
solvent | EtOH | 20 mL | CCO | C2H6O
product | 1-(4-fluorophenyl)-6-oxo-1,6-dihydropyridine-3-carboxylic acid | FC1=CC=C(C=C1)N1C=C(C=CC1=O)C(=O)O | C12H8FNO3
